US08071773B2
e) tert-Butyl (1-benzyl-2,6-dicyanopiperidin-2-yl)acetate
A solution of 378.000 mmol of diisopropylamine in 180 ml of tetrahydrofuran is admixed dropwise at −78° C. with 179.000 mmol of n-butyllithium (1.6M in hexane). The yellowish solution is stirred at −20° C. for 30 minutes then cooled again to −78° C. This solution is admixed dropwise at −78° C. with a solution of 126.000 mmol of 1-benzylpiperidine-2,6-dicarbonitrile [98195-08-5] and 138.600 mmol of hexamethylphosphorictriamide in 50 ml of tetrahydrofuran. The mixture is subsequently stirred at this temperature for 30 minutes. Then a solution of 130.000 mmol of tert-butyl bromoacetate in 50 ml of tetrahydrofuran is added dropwise. The mixture is subsequently stirred at −78° C. for an hour, the cold bath is removed, and the temperature is allowed to increase slowly overnight to room temperature. The reaction mixture is admixed with aqueous saturated ammonium chloride solution, the organic phase is separated off and the aqueous phase is extracted repeatedly with diethyl ether. The combined organic phases are washed with water and brine, dried with sodium sulphate and evaporated. From the residue the title compound is obtained by means of flash chromatography (SiO2 60 F) and identified on the basis of the Rf value.

reactant | diisopropylamine | 378.000 mmol | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 179.000 mmol, 1.6M | C(CCC)[Li]
reactant | 1-benzylpiperidine-2,6-dicarbonitrile | 126.000 mmol | C(C1=CC=CC=C1)N1C(CCCC1C#N)C#N | C14H15N3
reactant | hexamethylphosphorictriamide | 138.600 mmol | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | tert-butyl bromoacetate | 130.000 mmol | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | tert-Butyl (1-benzyl-2,6-dicyanopiperidin-2-yl)acetate | C(C1=CC=CC=C1)N1C(CCCC1C#N)(C#N)CC(=O)OC(C)(C)C | C20H25N3O2
